US08835428B2
(S)-2-({3-[4-(3-cyclohexyl-ureido)-phenyl]-isoxazole-5-carbonyl}-amino)-4-methyl-pentanoic acid methyl ester
The title compound was prepared from 3-[4-(3-cyclohexyl-ureido)-phenyl]-isoxazole-5-carboxylic acid and (S)-2-amino-4-methyl-pentanoic acid methyl ester hydrochloride as set forth in Example 5 and was obtained in 67.9% yield. Mass (ES+): 457 (M++1); IR (KBr): 3328, 2931, 1752 (br), 1655 (br), 1542 (br); 1H NMR (DMSO-d6) δ: 0.87, 0.91 (2×d, 6H), 1.14-1.81 (5×m, 13H), 3.47 (br, 1H), 3.65 (s, 3H), 4.49 (m, 1H), 6.17 (d, 1H), 7.52 (d, 2H), 7.59 (s, 1H), 7.77 (d, 2H), 8.59 (s, 1H), 8.96 (br, 1H), 9.32 (d, 1H).

reactant | 3-[4-(3-cyclohexyl-ureido)-phenyl]-isoxazole-5-carboxylic acid | C1(CCCCC1)NC(NC1=CC=C(C=C1)C1=NOC(=C1)C(=O)O)=O | C17H19N3O4
reactant | (S)-2-amino-4-methyl-pentanoic acid methyl ester hydrochloride | Cl.COC([C@H](CC(C)C)N)=O
reactant | KBr | [K+].[Br-]
product | (S)-2-({3-[4-(3-cyclohexyl-ureido)-phenyl]-isoxazole-5-carbonyl}-amino)-4-methyl-pentanoic acid methyl ester | 67.9% yield | COC([C@H](CC(C)C)NC(=O)C1=CC(=NO1)C1=CC=C(C=C1)NC(=O)NC1CCCCC1)=O | C24H32N4O5
